US07582638B2
To a cold solution of 4-(4-nitro-isoquinoline-1-yloxy)-piperidine-1-carboxylic acid tert-butyl ester (9.68 g, 25.9 mmol, 0° C.) in DCM (100 mL) add TFA (80 mL). Stir at 22° C. for 2 hours, then remove solvent under reduced pressure. Dissolve residue in DCM and treat with 1 N sodium hydroxide to pH˜14. Isolate the aqueous phase and extract twice with DCM. Combine the organic phases and dry with anhydrous sodium sulfate. Removal of the solvent gives (4-nitro-isoquinoline-1-yloxy)-piperidine (7.06 g, 99% yield, ES+ (m/z) 274.3 [M+H]).

reactant | 4-(4-nitro-isoquinoline-1-yloxy)-piperidine-1-carboxylic acid tert-butyl ester | 25.9 mmol, 9.68 g | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=NC=C(C2=CC=CC=C12)[N+](=O)[O-] | C19H23N3O5
reactant | TFA | 80 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | sodium hydroxide | 1 N | [OH-].[Na+]
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
product | (4-nitro-isoquinoline-1-yloxy)-piperidine | 7.06 g, 99% yield | [N+](=O)([O-])C1=CN=C(C2=CC=CC=C12)ON1CCCCC1 | C14H15N3O3
